US06130339
n-Butyllithium (1.8 mL, 4.5 mmol, 2.5 M solution in hexane) was added dropwise at -78° C. to a solution of 3,4-didecyloxythiophene (1.86 g, 4.69 mmol) in anhydrous THF (200 mL) under nitrogen. The solution was stirred for 1 h and warmed to -40° C. Tributylstannyl chloride (1.47 g, 4.52 mmol) was added and the entire solution was finally allowed to warm to room temperature. At room temperature the mixture was filtered using Celite and the solvent was stripped. The organo-tin compound was vacuum dried to give 2-(tributylstannyl)-3,4-didecyloxythiophene, obtained as a light yellow liquid, yield=99%. MS(EI) m/z (rel int): 629 [(M)+ --C4H9, 22%], 396 [(M+ --C12H27Sn), 8.5%], 256 [(M+ --C22H47Sn), 3%] and 116 [(M+ --C32H67Sn), 43%].

reactant | n-Butyllithium | 4.5 mmol, 2.5 M, 1.8 mL | C(CCC)[Li]
reactant | 3,4-didecyloxythiophene | 4.69 mmol, 1.86 g | C(CCCCCCCCC)OC1=CSC=C1OCCCCCCCCCC | C24H44O2S
reactant | Tributylstannyl chloride | 4.52 mmol, 1.47 g | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 2-(tributylstannyl)-3,4-didecyloxythiophene | yield=99% | C(CCC)[Sn](C=1SC=C(C1OCCCCCCCCCC)OCCCCCCCCCC)(CCCC)CCCC | InChI=1S/C24H43O2S.3C4H9.Sn/c1-3-5-7-9-11-13-15-17-19-25-23-21-27-22-24(23)26-20-18-16-14-12-10-8-6-4-2;3*1-3-4-2;/h21H,3-20H2,1-2H3;3*1,3-4H2,2H3;
